US06066639
To a 25 mL 14/20 round bottom flask was charged 0.067 g (0.11 mmol) of diethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamate dissolved in 3 mL of 1N sodium hydroxide. The reaction was stirred at room temperature for 84 hours The solution was cooled down in an ice bath and acidified with 1N hydrochloric acid to pH 3. The precipitate was filtered, washed with 25 mL water, and dried in a vacuum oven at 60° C. to give 0.036 g (70%) of N-{2-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamic acid m.p. 210-212° C. as a tan solid. Rf =0.08 (50% methanol/chloroform); 1H NMR (300 MHz, DMSO d6) δ 1.69-2.09 (m, 8H), 2.26 (t, J=7.1 Hz, 2H), 2.80 (t, J=8.2 Hz, 2H), 3.05-3.17 (m, 2H), 4.34-4.41 (m, 1H), 5.93 (s, 2H), 6.26 (s, 1H), 8.12 (s, 1H), 8.33 (d, J=7.7 Hz, 1H), 9.70 (br s, 1H).

reactant | diethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamate | 0.11 mmol, 0.067 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2SC=C(N2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)O | C27H38N6O7S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
product | N-{2-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamic acid | 0.036 g, 70% | NC=1N=C(C2=C(N1)NCC(C2)CCC=2SC=C(N2)C(=O)N[C@@H](CCC(=O)O)C(=O)O)O | C18H22N6O6S
